US05840911
1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-methoxvphenyl)-imidazole dihydrochloride
Analogously to Example 2, approximately 2 g of Raney nickel are added to a solution of 5.8 g (0.00129 mol) of 1-[4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-methoxyphenyl)-imidazole dihydrochloride in 600 ml of methanol, and hydrogenation is carried out at room temperature and under normal pressure until the absorption of hydrogen has ceased. The reaction mixture is then filtered and the filtrate is concentrated. The product that has crystallised out is filtered off with suction and recrystallized from methanol, yielding the title compound in the form of the monohydrate, m.p. >220° C., 1H-NMR (DMSO): δ=9.56 (d, 4H); 8.33 (d, 1H); 7.99 (s, 1H); 7.94 (s, 2H); 7.75-7.84 (m, 3H); 7.64 (t, 1H); 7.04 (d, 2H); 3.80 (s, 3H), 3.40 (m, 4H).

reactant | 1-[4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-methoxyphenyl)-imidazole dihydrochloride | 0.00129 mol, 5.8 g | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)OC)N
catalyst | Raney nickel | approximately 2 g | [Ni] | Ni
solvent | methanol | 600 ml | CO | CH4O
product | 1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-methoxvphenyl)-imidazole dihydrochloride | Cl.Cl.C(N)(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)OC)N | InChI=1S/C20H20N6O.2ClH/c1-27-13-7-5-12(6-8-13)18-11-26(20(23)24-18)25-17-10-9-14-15(17)3-2-4-16(14)19(21)22;;/h2-8,11H,9-10H2,1H3,(H3,21,22)(H2,23,24);2*1H
